US07300946B2
Step C Synthesis of 4-pyridyl[4-(trifluoromethyl)phenyl]methanol hydrochloride salt as an intermediate
A solution of 21.2 grams (0.070 mole) of 4-pyridyl[4-(trifluoromethyl)phenyl]methanol in 500 mL of ethyl acetate was stirred vigorously and anhydrous hydrogen chloride gas was slowly added during a 15 minute period, below the surface of the solution. The reaction mixture was then stirred for an additional 15 minutes, and a solid was collected by filtration. The solid was washed with ethyl acetate and dried, yielding 11.4 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-pyridyl[4-(trifluoromethyl)phenyl]methanol | 0.070 mole, 21.2 grams | N1=CC=C(C=C1)C(O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-pyridyl[4-(trifluoromethyl)phenyl]methanol hydrochloride salt | 11.4 grams | Cl.N1=CC=C(C=C1)C(O)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C13H10F3NO.ClH/c14-13(15,16)11-3-1-9(2-4-11)12(18)10-5-7-17-8-6-10;/h1-8,12,18H;1H
